US04083863
Preparation of 3,3-Dimethylspiro[cyclopropane-1,1'-indene]- 2-carboxylic acid, ethyl ester
By the above procedure, but substituting tetrahydrothiophenium carboxymethylide-, m-phenoxybenzyl ester and tetrahydrothiophenium carboxymethylide-, 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylic acid, m-phenoxybenzyl ester and 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylic acid, are obtained, respectively.

reactant | tetrahydrothiophenium | [SH+]1CCCC1
reactant | 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylic acid, m-phenoxybenzyl ester | CC1(C(C12C=CC1=CC=CC=C21)C(=O)OCC2=CC(=CC=C2)OC2=CC=CC=C2)C | C27H24O3
reactant | 3,3-dimethylspiro[cyclopropane-1,1'-indene]-2-carboxylic acid | CC1(C(C12C=CC1=CC=CC=C21)C(=O)O)C | C14H14O2
product | 3,3-Dimethylspiro[cyclopropane-1,1'-indene]- 2-carboxylic acid, ethyl ester | CC1(C(C12C=CC1=CC=CC=C21)C(=O)OCC)C | C16H18O2
